US07671066B2
Preparation of 4-(toluene-4-sulfonylamino)-benzoic acid, (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (CHF 5537)
The compound was obtained starting from 4-toluenesulfonyl chloride and 4-amino -benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)vinyl ester, following the procedure of Example 16.

reactant | 4-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-amino -benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)vinyl ester | ClC=1C=NC=C(C1\C=C(\C1=CC(=C(C=C1)OC)OC)/OC(C1=CC=C(C=C1)N)=O)Cl | C22H18Cl2N2O4
product | 4-(toluene-4-sulfonylamino)-benzoic acid, (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | C1(=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C(=O)O\C(=C/C2=C(C=NC=C2Cl)Cl)\C2=CC(=C(C=C2)OC)OC)C=C1)C | C29H24Cl2N2O6S
